US08110575B2
Step 3: 2-ethyl-1H-indole
1.2 g (4.2 mmol) 1-benzenesulphonyl-2-ethyl-1H-indole in 10 mL EtOH were mixed with 5 mL of a (20 mmol) 4 N aqueous sodium hydroxide solution and refluxed for 8 h. Then the solvent was eliminated using the rotary evaporator and the residue was diluted with ice water. After acidifying with semi-concentrated aqueous hydrochloric acid the grease precipitated was extracted with ethyl acetate. The organic phase was dried on sodium sulphate, filtered off, evaporated down and dried.

reactant | 1-benzenesulphonyl-2-ethyl-1H-indole | 4.2 mmol, 1.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)CC | C16H15NO2S
reactant | sodium hydroxide | 20 mmol, 4 N | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-ethyl-1H-indole | C(C)C=1NC2=CC=CC=C2C1 | C10H11N
